US07776864B2
Step 1: 1H-pyrrole-2-carbohydrazonamide
A solution of 10 g 1H-pyrrole-2-carbonitrile and 1 eq sodium methoxide in 20 ml ethanol and stirred for 10 min. Hydrazine hydrate (3 eq.) is then added and resulting reaction mixture is stirred at room temperature for 18 h. The Reaction mixture is then diluted with water, extracted with ethyl acetate, dried over Na2SO4 and concentrated under vacuum to yield desired compound.

reactant | 1H-pyrrole-2-carbonitrile | 10 g | N1C(=CC=C1)C#N | C5H4N2
reactant | sodium methoxide | 1 eq | C[O-].[Na+]
reactant | Hydrazine hydrate | 3 eq. | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1H-pyrrole-2-carbohydrazonamide | N1C(=CC=C1)C(N)=NN | C5H8N4
